US05886008
P. 1-[3-(N-Methylpyrrolidin-3-yl)indol-5-yl]-3H-imidazo[4,5-b]pyridine
3-(N-Methylpyrrolidin-3-yl)-5-(3-nitropyrid-2-ylamino)-1H-indole was used. Reduction was by catalytic hydrogenation, the cyclization reaction used dimethylformamide dimethylacetal, and the cyclization reaction was heated for 24 hours. Chromatography using 9:1:1 [ethyl acetate/methanol/triethylamine] afforded the title compound (24%) as a white solid: mp, 110.0°-112.0° C.; 13C NMR (CDCl3) δ 147.7, 144.8, 144.3, 136.2, 135.7, 128.3, 127.3, 126.8, 122.4, 119.0, 118.7,115.6, 112.4, 62.3, 56.2, 42.2, 34.9, 32.1. HRMS calculated for C19H19N5 317.1643, found 317.1665. Anal. calcd for C19H19N5.0.5 C4H8O4 [ethyl acetate].0.5 H2O: C, 68.08; H, 6.53; N, 18.90. Found: C, 67.93; H, 6.51; N, 19.17.

reactant | 3-(N-Methylpyrrolidin-3-yl)-5-(3-nitropyrid-2-ylamino)-1H-indole | CN1CC(CC1)C1=CNC2=CC=C(C=C12)NC1=NC=CC=C1[N+](=O)[O-] | C18H19N5O2
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate methanol triethylamine | C(C)(=O)OCC.CO.C(C)N(CC)CC
product | 1-[3-(N-Methylpyrrolidin-3-yl)indol-5-yl]-3H-imidazo[4,5-b]pyridine | 24% | CN1CC(CC1)C1=CNC2=CC=C(C=C12)N1CNC2=NC=CC=C21 | C19H21N5
